US09079866B2
2-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-2-methylpropanamide
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-((2-bromophenyl)sulfonyl)-2-methylpropanamide. MS (ESI): mass calcd. for C20H19FN4O3S, 414.12; m/z found, 415.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.38 (s, 1H), 8.16 (d, J=1.2, 1H), 7.96 (dd, J=8.0, 0.9, 1H), 7.85 (m, 1H), 7.78 (m, 1H), 7.72-7.64 (m, 1H), 7.44 (s, 1H), 7.37 (dd, J=7.6, 0.9, 1H), 7.34 (s, 1H), 7.27 (dd, J=6.4, 1.3, 1H), 7.24 (s, 1H), 1.31 (s, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-((2-bromophenyl)sulfonyl)-2-methylpropanamide | BrC1=C(C=CC=C1)S(=O)(=O)C(C(=O)N)(C)C | C10H12BrNO3S
product | 2-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}-2-methylpropanamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C(C(=O)N)(C)C)F | C20H19FN4O3S
